US04237058
A solution of ethyl α,α,3-trichloro-3,4,5,6-tetrahydro-4,4-dimethyl-6-oxo-2H-pyran-2-acetate (3.43 g, 10.8 mmol) in 20 ml of tetrahydrofuran was cooled to -20° C. Potassium tert-butoxide was added in small portions while the mixture was stirred and maintained at -20° C. over a period of two hours. A total of 1.4 g (12.5 mmol) was added. Aqueous ammonium chloride was added and the mixture was extracted with methylene chloride. Purification by column chromatography gave 1.82 g of ethyl α,α-dichloro-6,6-dimethyl-4-oxo-3-oxabicyclo[3.1.0]hexane-2-acetate (60% yield).

reactant | ethyl α,α,3-trichloro-3,4,5,6-tetrahydro-4,4-dimethyl-6-oxo-2H-pyran-2-acetate | 10.8 mmol, 3.43 g | ClC(C(=O)OCC)(C1OC(CC(C1Cl)(C)C)=O)Cl | C11H15Cl3O4
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl α,α-dichloro-6,6-dimethyl-4-oxo-3-oxabicyclo[3.1.0]hexane-2-acetate | 1.82 g, 60% yield | ClC(C(=O)OCC)(C1C2C(C2C(O1)=O)(C)C)Cl | C11H14Cl2O4
